Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain

 
Major Surgical or Invasive Procedure:
Nuclear stress test

 
History of Present Illness:
Mr. ___ is a ___ yo male with a history of hypertension and 
recently diagnosed CAD s/p DES to pLAD 95% hazy stenosis on 
___ after presenting with NSTEMI, who presented with 
recurrent right-sided chest pain. 

Mr. ___ was admitted to ___ from ___ for NSTEMI after 
six weeks of chest heaviness upon activity. He went to see his 
PCP and was found to have new anteroseptal TWI, so he was 
referred to the ___ for further evaluation. His initial 
troponin on ___ was 0.34 which peaked at 0.59 on ___ and was 
0.56 on ___ at the time of discharge post PCI. His EKG prior to 
discharge after PCI had TWI in V1-V3. He was started on prasguel 
10 mg daily, aspirin 81 mg daily, atorvastatin 80 mg, and 
metoprolol succinate XL 25 mg daily during admission. He has not 
missed any doses of DAPT since discharge yesterday. 

At 3pm on day of admission, he started to have right sided chest 
discomfort ___ similar in character to last presentation but 
less in severity. He states he was walking around, but it did 
not subside with rest. The pain radiates to back, and is 
slightly worse with deep inspiration. He denied cough, fevers, 
chills, nausea, vomiting, shortness of breath, pre-syncope, 
syncope, palpitations. 

In the ED, initial VS were:  98.1 85 143/97 17 100% RA 

ECG ___: TWI in V1-V3 that are less deep than on ___, 
normal sinus rhythm and normal intervals, similar j point 
elevation 1 mm in II, III, aVF to priors

Labs showed:  
WBC 9.1  H/H 13.6/42.6  platelets 265 
Na 140  K 4.0  Cr 1.0  
Trop-T: 0.54 
CK: 124  MB: 2  

Imaging showed: CXR showed no acute cardiopulmonary process. 
 
Patient received: Nitroglycerin SL 0.4 mg and Acetaminophen 1000 
mg 

Cardiology was consulted and recommended admission to ___.

Transfer VS were: 98.1 74 ___ 100% RA 
  
On arrival to the floor, patient reported that he continues to 
have some R back chest pain ___. He states that he had anterior 
chest pain as well that abated with use of SL nitro in the ED. 
He did have lightheadedness & headache after taking the SL 
nitro. He denies any shortness of breath, N/V, fevers, chills, 
abdominal pain. He has been compliant with all his medications. 

 
Past Medical History:
1. HTN
2. Migraine
3. CAD s/p pLAD stent on ___
 
Social History:
___
Family History:
Father with hypertension.
 
Physical Exam:
PHYSICAL EXAM
VS:  98.2 117/80 79 18 97% RA
GENERAL: pleasant in no acute distress  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
CHEST: not reproducible on palpation
ABDOMEN: soft, nontender, nondistended
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
LABS:
___ 08:00PM   CK(CPK)-124
___ 08:00PM   cTropnT-0.54*
___ 08:00PM   CK-MB-2
___ 08:00PM   WBC-9.1 RBC-5.08 HGB-13.6* HCT-42.6 MCV-84 
MCH-26.8 MCHC-31.9* RDW-12.7 RDWSD-38.8
___ 08:00PM   NEUTS-53.4 ___ MONOS-10.9 EOS-3.0 
BASOS-0.4 IM ___ AbsNeut-4.86 AbsLymp-2.91 AbsMono-0.99* 
AbsEos-0.27 AbsBaso-0.04
___ 12:03PM   cTropnT-0.56*
___ 08:00PM   PLT COUNT-265
___ 05:27AM   GLUCOSE-103* UREA N-15 CREAT-0.9 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 05:27AM   cTropnT-0.59*
___ 05:27AM   MAGNESIUM-2.0
___ 05:27AM   %HbA1c-5.9 eAG-123
___ 05:27AM   WBC-9.0 RBC-4.88 HGB-13.2* HCT-41.4 MCV-85 
MCH-27.0 MCHC-31.9* RDW-13.1 RDWSD-40.1
___ 05:27AM   PLT COUNT-256
___ 01:55AM   POTASSIUM-3.8
___ 01:55AM   cTropnT-0.57*
___ 01:55AM   PLT COUNT-265
 
Brief Hospital Course:
Mr. ___ is a ___ with a hx of HTN and recently diagnosed CAD 
s/p DES to pLAD for management of a 95% hazy stenosis on 
___ after presenting with NSTEMI, who re-presented two 
days after discharge with recurrent right-sided chest pain. His 
troponin values were stable from discharge two days prior at 
0.54 and 0.56. EKG was also unchanged on admission. He underwent 
nuclear stress testing which was negative and specifically 
showed (1) left ventricular cavity size is normal; (2) resting 
and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. His chest pain 
subsided and he was discharged pain free, with instructions to 
continue all of his home medications. He was also discharged 
with a lidocaine patch which he felt improved his back pain.

TRANSITIONAL ISSUES:
- Please continue your home medications as prescribed.
- Please follow-up with your Cardiologist on ___.
- Please continue use of the lidocaine patch for back pain as 
needed for the next week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Prasugrel 10 mg PO DAILY to prevent stent thrombosis 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % Apply patch to affected area on back Once 
daily in the morning Disp #*14 Patch Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Prasugrel 10 mg PO DAILY to prevent stent thrombosis  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Chest Pain
Back Pain

Secondary Diagnosis:
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted for 
evaluation of chest pain after a stent was placed late last 
week. You were evaluated with several tests, including an 
exercise stress test, which was normal.

Please take all of your medications as prescribed and follow-up 
with your doctors.

___ wishes,

Your ___ Team
 
Followup Instructions:
___